US06967201B1
1-(4,6-dichlorobenzofur-7-yl)-3(R)-methylpiperazine Hydrochloride
Beginning with 0.31 gm (1.2 mmol) 4,6-dichloro-7-bromobenzofuran and 0.12 gm (1.2 mMol) 2(R)-methylpiperazine, the title compound was prepared essentially as described in GENERAL PROCEDURE IV.

reactant | 4,6-dichloro-7-bromobenzofuran | 1.2 mmol, 0.31 gm | ClC1=CC(=C(C2=C1C=CO2)Br)Cl | C8H3BrCl2O
reactant | 2(R)-methylpiperazine | 1.2 mMol, 0.12 gm | C[C@H]1NCCNC1 | C5H12N2
product | 1-(4,6-dichlorobenzofur-7-yl)-3(R)-methylpiperazine Hydrochloride | Cl.ClC1=CC(=C(C2=C1C=CO2)N2C[C@H](NCC2)C)Cl | InChI=1S/C13H14Cl2N2O.ClH/c1-8-7-17(4-3-16-8)12-11(15)6-10(14)9-2-5-18-13(9)12;/h2,5-6,8,16H,3-4,7H2,1H3;1H/t8-;/m1./s1
